US04058392
Preparation of 3-phenyl-3-methoxy-methyl-1,1-dimethylurea
A solution of 3.3 g (0.1 mole) of methanol and 10.1 g (0.1 mole) of triethylamine were added dropwise to a solution of 23 g (0.1 mole) of 3-phenyl-3-chloromethyl-1,1-dimethylurea in 125 ml of ethyl acetate, while stirring and cooling externally, is such a way that the reaction temperature did not exceed 20° C. After stirring for one hour at room temperature, the precipitate so produced was filtered off and well washed with about 50 ml of ethyl acetate. The combined filtrates and wash solutions were freed of the solvent in vacuo and the resulting oil was taken up in 100 ml of benzene and twice washed with 50 ml of water at a time. The organic phase was dried over sodium sulfate and the solvent was distilled off. The oily residue was taken up in 100 ml of benzene and twice washed with 50 ml of water at a time. The organic phase was dried over sodium sulfate and the solvent was distilled off. The oily residue was taken up in 100 ml of a 1:1 mixture of ether and petroleum ether, the solution was filtered and the solvent of the filtrate was distilled off in vacuo. 17.5 g (84% of theory) of 3-phenyl-3-methoxy-methyl-1,1-dimethylurea were left as an oil.

reactant | methanol | 0.1 mole, 3.3 g | CO | CH4O
reactant | triethylamine | 0.1 mole, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | 3-phenyl-3-chloromethyl-1,1-dimethylurea | 0.1 mole, 23 g | C1(=CC=CC=C1)N(C(N(C)C)=O)CCl | C10H13ClN2O
reactant | ethyl acetate | 125 ml | C(C)(=O)OCC | C4H8O2
product | 3-phenyl-3-methoxy-methyl-1,1-dimethylurea | C1(=CC=CC=C1)N(C(N(CC)C)=O)OC | C11H16N2O2
